US08476253B2
Ethyl N-{4-[{3-([tert-butoxycarbonyl)(methyl)amino]propyl}(methyl)carbamoyl]phenyl}-β-alaninate
4-[(3-Ethoxy-3-oxopropyl)amino]benzoic acid (200 mg, 0.84 mmol) (U.S. Pat. No. 5,977,101 A1) was dissolved in methylene chloride (6 mL), triethylamine (0.14 mL, 1.01 mmol) and pivaloyl chloride (0.10 mL, 0.84 mmol) were added under ice cooling, and the mixture was stirred at the same temperature under a nitrogen atmosphere for 15 minutes. Subsequently, a solution of tert-butyl methyl[3-(methylamino)propyl]carbamate (179 mg, 0.89 mmol) in methylene chloride (2 mL) was added under ice cooling, and the mixture was stirred at room temperature under a nitrogen atmosphere for 16 hours. After the reaction was completed, a saturated aqueous sodium hydrogencarbonate solution was added, and ethyl acetate was further added to separate the layers. The resulting organic layer was separated, washed with saturated sodium chloride solution, and then dried with anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by NH silica gel column chromatography (hexane:ethyl acetate, 1:9, v/v) to give the title compound (315 mg; yield, 89%) as a light yellow oily substance.

reactant | 4-[(3-Ethoxy-3-oxopropyl)amino]benzoic acid | 0.84 mmol, 200 mg | C(C)OC(CCNC1=CC=C(C(=O)O)C=C1)=O | C12H15NO4
reactant | triethylamine | 1.01 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.84 mmol, 0.10 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | tert-butyl methyl[3-(methylamino)propyl]carbamate | 0.89 mmol, 179 mg | CN(C(OC(C)(C)C)=O)CCCNC | C10H22N2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl N-{4-[{3-([tert-butoxycarbonyl)(methyl)amino]propyl}(methyl)carbamoyl]phenyl}-β-alaninate | 315 mg, 89% | C(C)(C)(C)OC(=O)N(CCCN(C(=O)C1=CC=C(C=C1)NCCC(=O)OCC)C)C | C22H35N3O5
